US06555577B1
(E,E)-(S)-Ethyl 3-(4′-{3-[4-(2-Ethoxy-2-ethoxycarbonyl-ethyl)-phenoxy]-1-methyl-propenyl}-biphenyl-3-yl)-but-2-enoate
The title compound (230 mg, 58%) was prepared from (E,E)-ethyl 3-[4′-(3-hydroxy-1-methyl-propenyl)-biphenyl-3-yl]-but-2-enoate (235 mg, 0.70 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (175 mg, 0.73 mmol) by a procedure analogous to that described in example 52c.

reactant | (E,E)-ethyl 3-[4′-(3-hydroxy-1-methyl-propenyl)-biphenyl-3-yl]-but-2-enoate | 0.70 mmol, 235 mg | OC/C=C(\C)/C1=CC=C(C=C1)C1=CC(=CC=C1)/C(=C/C(=O)OCC)/C | C22H24O3
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 0.73 mmol, 175 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E,E)-(S)-Ethyl 3-(4′-{3-[4-(2-Ethoxy-2-ethoxycarbonyl-ethyl)-phenoxy]-1-methyl-propenyl}-biphenyl-3-yl)-but-2-enoate | 230 mg, 58% | C(C)O[C@@H](CC1=CC=C(OC/C=C(\C)/C2=CC=C(C=C2)C2=CC(=CC=C2)/C(=C/C(=O)OCC)/C)C=C1)C(=O)OCC | C35H40O6
